US04845097
Synthesis of 5-chloro-4-{2-[4-(2-ethoxyethoxymethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine (Compound No. 113)
3.1 g of 5-chloro-4-{2-[4-(2-hydroxyethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine were dissolved in 50 ml of anhydrous tetrahydrofuran and 0.3 g of sodium hydride (which had been freed from mineral oil by washing with hexane) were added to the solution. The mixture was stirred at room temperature for 30 minutes. 1.7 g of 2-bromoethyl ethyl ether was added to the mixture and it was then stirred, whilst heating, for 3 hours. At the end of this time, any excess of sodium hydride was decomposed by adding ethanol. Water was added to the mixture, and the oily substance which separated was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. Ethyl acetate was removed by distillation under reduced pressure to give an oily substance which was subjected to column chromatography (Wakogel C-200, eluted with a 2:1 by volume mixture of toluene and ethyl acetate) to afford 2.0 g of the title compound as a pale yellow oily liquid, n16.4 = 1.5591.

reactant | 5-chloro-4-{2-[4-(2-hydroxyethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 3.1 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CCO)C | C16H20ClN3O2
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2-bromoethyl ethyl ether | 1.7 g | C(C)OCCBr | C4H9BrO
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 5-chloro-4-{2-[4-(2-ethoxyethoxymethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 2.0 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)COCCOCC)C | C19H26ClN3O3
